US07345178B2
A solution of crude 6-(bromomethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine (4.0 g), Boc-piperazine (1.99 g, 10.7 mmol), Et3N (1.5 mL, 10.7 mmol) and acetonitrile (100 mL) was stirred at 50° C. for 4 h and then at room temperature for 60 h. TLC demonstrated that the reaction was complete. The mixture was concentrated in vacuo and purified by silica gel chromatography (petroleum ether: ethyl acetate: Et3N=100:10:1) to afford tert-butyl 4-((2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate as a yellow solid (3.6 g, yield: 74% over 2 steps).

reactant | 6-(bromomethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 4.0 g | BrCC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H8BrN3O2S
reactant | Boc-piperazine | 10.7 mmol, 1.99 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Et3N | 10.7 mmol, 1.5 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | tert-butyl 4-((2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate | yield: 74% | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C22H25N5O4S
